US07932262B2
Preparation of 4-(7-(1-methyl-1H-pyrrol-3-yl)-8-(piperidin-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide
A 2M solution of K2CO3 (180 μL) was added to a mixture of tert-butyl 4-(7-bromo-2-(4-sulfamoylphenylamino)quinazolin-8-yloxy)piperidine-1-carboxylate (18 mg, 0.031 mmole), 1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole (20 mg, 0.093 mmole) and palladium (4 mg, 0.005 mmole) in DME (0.6 mL). The reaction was sparged with argon, sealed and heated at 90-95° C. with stirring. After 90 minutes, LCMS showed that the reaction had reached completion. The Boc group was removed by adding 4M HCl (1.5 mL) in dioxane to the cooled reaction mixture. After 2 hours, the reaction was complete by LCMS. The reaction was filtered, evaporated, dissolved in DMSO (1 mL) and purified by prep. HPLC to give 3.4 mg of the pure product as a TFA salt.

reactant | K2CO3 | 180 μL | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 4-(7-bromo-2-(4-sulfamoylphenylamino)quinazolin-8-yloxy)piperidine-1-carboxylate | 0.031 mmole, 18 mg | BrC1=CC=C2C=NC(=NC2=C1OC1CCN(CC1)C(=O)OC(C)(C)C)NC1=CC=C(C=C1)S(N)(=O)=O | C24H28BrN5O5S
reactant | 1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole | 0.093 mmole, 20 mg | CN1C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H18BNO2
solvent | DME | 0.6 mL | COCCOC | C4H10O2
catalyst | palladium | 0.005 mmole, 4 mg | [Pd] | Pd
product | 4-(7-(1-methyl-1H-pyrrol-3-yl)-8-(piperidin-4-yloxy)quinazolin-2-ylamino)benzenesulfonamide | 3.4 mg | CN1C=C(C=C1)C1=CC=C2C=NC(=NC2=C1OC1CCNCC1)NC1=CC=C(C=C1)S(=O)(=O)N | C24H26N6O3S
